US07423047B2
Sodium 3-cyano-6-oxo-1-phenyl-1,6-dihydro-pyridine-2-thiolate
A solution of sodium methoxide in MeOH (30 wt %, 202.2 g) was added to absolute EtOH (360 mL) followed by 1,3-dimethyluracil (75 g) and 2-cyano-N-phenyl-thioacetamide (Adhikari et al, Australian J. Chem., 1999, 52, 63-67) (90 g). The resulting mixture was heated at reflux for 8 h and then allowed to cool to ambient temperature overnight. The reaction mixture was then cooled to +5° and maintained at this temperature for at least an hour when the product was recovered by filtration. The filter cake was washed with cold (+5°) absolute ethanol (450 mL) and then dried to constant weight under vacuum at 45° to give the title compound as a pale pink solid (130.0 g). The product thus obtained contains residual EtOH and MeOH, estimated at 12.2 wt % by 1H nmr, corresponding to a corrected yield of 114.1 g. δH (DMSO-d6) 7.32 (2H, m), 7.27-7.18 (1H, m), 7.16 (1H, d, J 9.1 Hz), 6.92 (2H, m), 5.63 (1H, d, J 9.1 Hz). LCMS(Conditions B) (ES+) RT 2.43 minutes, 229 (M+H)+.

reactant | sodium methoxide | C[O-].[Na+]
reactant | EtOH | 360 mL | CCO | C2H6O
reactant | 1,3-dimethyluracil | 75 g | CN1C(=O)N(C(=O)C=C1)C | C6H8N2O2
reactant | 2-cyano-N-phenyl-thioacetamide | 90 g | C(#N)CC(=S)NC1=CC=CC=C1 | C9H8N2S
solvent | MeOH | 202.2 g | CO | CH4O
product | Sodium 3-cyano-6-oxo-1-phenyl-1,6-dihydro-pyridine-2-thiolate | 130.0 g | C(#N)C1=C(N(C(C=C1)=O)C1=CC=CC=C1)[S-].[Na+] | InChI=1S/C12H8N2OS.Na/c13-8-9-6-7-11(15)14(12(9)16)10-4-2-1-3-5-10;/h1-7,16H;/q;+1/p-1
